US06107458
To a suspension of sodium hydride (60% in oil, 0.37 g) in tetrahydrofuran (40 ml) was added by portions 4-acetyl-4'-n-heptylbiphenyl (2.50 g) at ambient temperature. After stirring at ambient temperature for 1 hour, to the solution was added triethyl phosphonoacetate (1.9 ml) and the mixture was heated to reflux for 5 hours. After cooling to ambient temperature, to the mixture was added acetic acid (0.53 ml) and evaporated. The residue was taken up into a mixture of water and ethyl acetate. The separated organic layer was washed with brine, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel (200 ml) eluting with mixture of n-hexane and diisopropyl ether (99:1-20:1, V/V) to give Ethyl (E)-3-[4-(4-heptylphenyl)phenyl]-2-butenoate (2.19 g).

reactant | sodium hydride | 0.37 g | [H-].[Na+]
reactant | 4-acetyl-4'-n-heptylbiphenyl | 2.50 g | C(C)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)CCCCCCC | C21H26O
reactant | acetic acid | 0.53 ml | C(C)(=O)O | C2H4O2
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | Ethyl (E)-3-[4-(4-heptylphenyl)phenyl]-2-butenoate | 2.19 g | C(CCCCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)/C(=C/C(=O)OCC)/C | C25H32O2
